US07179823B1
To a mixture of ethyl 3-(3-ethoxy-1H-pyrazol-4-yl]propionate (509 mg), 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (753 mg), and N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 96.0 mg) was added at 0° C., and then the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-ethoxy-1-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (809 mg, yield: 69%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | ethyl 3-(3-ethoxy-1H-pyrazol-4-yl]propionate | 509 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 753 mg | ClCC=1C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=CC1 | C18H16ClNO2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 96.0 mg | [H-].[Na+]
solvent | water | O | H2O
product | ethyl 3-[3-ethoxy-1-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 809 mg, yield: 69% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H31N3O5
